US05292521
41.2 g (0.271 mol) of isovanillin was dissolved in 160 ml of 90% AcOH under heating. 29.41 g of t-BuOCl was added dropwise to the solution while it was kept at 35° to 40° C. The solution was stirred at room temperature for 3 hours and then 200 ml of ether was added thereto. The mixture was left to stand overnight and crystals thus formed were separated by filtration and washed with ether. 42.0 g of the crude crystals were recrystallized from acetonitrile to obtain 35 g of 2-chloro-3-hydroxy-4-methoxybenzaldehyde (69%).

reactant | isovanillin | 0.271 mol, 41.2 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | t-BuOCl | 29.41 g | C(C)(C)(C)OCl | C4H9ClO
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | AcOH | 160 ml | CC(=O)O | C2H4O2
product | 2-chloro-3-hydroxy-4-methoxybenzaldehyde | 35 g, 69% | ClC1=C(C=O)C=CC(=C1O)OC | C8H7ClO3
